US07939562B2
Preparation of amphiphilic 11-(3-pentyloxiranyl)undec-9-enoic acid (3-aminopropyl)amide
Derivative 17 was prepared from methyl vernolate and 1,3-diaminopropane according to the procedure described in Example 1(f) and shown in Scheme 14.

reactant | methyl vernolate | CCCCC[C@@H]1[C@@H](O1)C/C=C\CCCCCCCC(=O)OC | C19H34O3
reactant | 1,3-diaminopropane | NCCCN | C3H10N2
product | 11-(3-pentyloxiranyl)undec-9-enoic acid (3-aminopropyl)amide | NCCCNC(CCCCCCCC=CCC1OC1CCCCC)=O | C21H40N2O2
